US07220862B2
8-Fluoro-3,4-dihydro-3-(piperidin-4-yl)quinazolin-2(1H)-one
A 250 mL flask was charged with 3-(1-benzylpiperidin-4-yl)-8-fluoro-3,4-dihydroquinazolin-2(1H)-one (1.40 g, 4.12 mmol) and methanol (25.0 mL). The suspension was heated with a heat gun to aid in dissolution. The flask was flushed with nitrogen, treated with palladium on charcoal (141 mg, 0.032 equiv.), flushed with nitrogen, then hydrogen, and vigorously stirred under an atmosphere of hydrogen overnight. The reaction was flushed with nitrogen, filtered through celite, and concentrated to give 0.99 g (97%) as a white solid which was used without purification. 1H-NMR (CDCl3, 500 MHz) δ 1.71 (m, 4H), 2.75 (m, 2H), 3.16 (m, 2H), 4.38 (s, 2H), 4.46 (m, 1H), 6.77 (bs, 1H), 6.81–6.89 (m, 2H), 6.95 (m, 1H). Mass spec.: 250.22 (MH)+.

reactant | 3-(1-benzylpiperidin-4-yl)-8-fluoro-3,4-dihydroquinazolin-2(1H)-one | 4.12 mmol, 1.40 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(C=CC=C2C1)F)=O | C20H22FN3O
catalyst | palladium on charcoal | 141 mg, 0.032 equiv. | [Pd] | Pd
solvent | methanol | 25.0 mL | CO | CH4O
product | 8-Fluoro-3,4-dihydro-3-(piperidin-4-yl)quinazolin-2(1H)-one | FC=1C=CC=C2CN(C(NC12)=O)C1CCNCC1 | C13H16FN3O
